Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Sulfa (Sulfonamide Antibiotics) / Seroquel / Erythromycin Base / 
Reglan
 
Attending: ___.
 
Chief Complaint:
Abdominal pain
 
Major Surgical or Invasive Procedure:
___ - G/J tube change by ___

 
History of Present Illness:
___ h/o gastroparesis s/p G/J tube exchange 3 days ago who p/w 
abdominal pain since the day of the exchange. She saw surgery 
early this month about replacing her previous tube with a 
smaller tube. 1.5 weeks ago, she started having nausea and so 
the tube was planned to be exchanged on ___. At that time, ___ 
did attempt the procedure, but the button was too short and was 
leaking. So on ___, the button was exchanged for a 
longer one. She said she felt well until she attempted her tube 
feeds later that evening, at which point she started having 
progressive pain. She called ___ on ___ and was advised to go 
to the ER for evaluation. A scan at ___ showed her 
G/J tube was "coiled in gastric fundus w/ tip in gastric 
antrum." Otherwise, no findings to explain abdominal pain. The 
physicians at ___ contacted ___ at ___ who said that they 
would not do anything over the weekend. The patient was 
discharge and attempted to manage her pain at home with vicodin. 
She did well on ___ and ___ (and had a graduation party 
on ___, but this morning had progressively worsening pain 
and had to come in. She reports that she has held all tube 
feeds, and has been eating some/drinking fluids well. She 
reports intermittent nausea, consistent with her baseline, but 
harder to manage now that she can't use her drains/vents as 
usual (as this has become painful to hook up the drain). She 
does report loose stools x ___ days ___ watery BM's daily). The 
bowel changes do not affect her pain.  

In the ER, initial VS 99.6 80 105/71 16 100% RA. In ER, 
abdominal exam was not peritoneal; TTP in LUQ/epigastrum. ER 
reviewed OSH CT and J tube study w/ rads here, they agree tube 
is in the stomach. Patient received morphine 5mg IV x 2 in ER 
with good effect initially, but then required dilaudid 0.5mg IV 
x 1 before transfer to the floor. VS on transfer were 98, 
100/60, hr 82, rr 16, sat 1005 r/a.  
Currently, pain is ___ in severity, located in the left side. 
She denies any bruising to the area.  
 
ROS: Denies fever, chills, night sweats, headache, vision 
changes, rhinorrhea, congestion, sore throat, cough, shortness 
of breath, chest pain, abdominal pain, nausea, vomiting, 
diarrhea, constipation, melena, hematochezia, dysuria, hematuria 


 
Past Medical History:
h/o Eating disorder/laxative abuse, patient reports is in 
remission and that she remains in outpatient therapy
Chronic constipation  
Bipolar disorder  
GERD  
Gastroparesis  
 
Social History:
___
Family History:
Pertinent for mother with breast cancer and a half sister with 
type 1 diabetes and a cousin with ___ disease.
 
Physical Exam:
Admission exam:
Vitals - 98.8, 115/68, 74, 18, 100RA  
GENERAL: Pleasant, well appearing female in NAD  
HEENT: Normocephalic, atraumatic. No conjunctival pallor. No 
scleral icterus. PERRLA/EOMI. MM slightly dry. OP clear. Neck 
Supple  
CARDIAC: Regular rhythm, normal rate. Normal S1, S2. No murmurs, 
rubs or ___.  
LUNGS: CTAB, good air movement biaterally.  
ABDOMEN: NABS. Soft, tenderness to palpation in left upper 
quadrant. No drainage around the tube, which appears C/D/I. 
Nondistended. No HSM  
EXTREMITIES: No edema or calf pain, 2+ dorsalis pedis/ posterior 
tibial pulses.  
SKIN: No rashes/lesions, ecchymoses.  
NEURO: A&Ox3. Appropriate.  
PSYCH: Listens and responds to questions appropriately, pleasant 
 

Discharge exam - unchanged from above, except as below:
ABDOMEN: Mild tenderness in LUQ, G/J tube site is c/d/i, no 
tenderness with manipulation of new tube
 
Pertinent Results:
Admission labs:
___ 05:30PM BLOOD WBC-9.9 RBC-4.16* Hgb-13.1 Hct-39.7 
MCV-96 MCH-31.4 MCHC-32.9 RDW-12.5 Plt ___
___ 05:30AM BLOOD ___ PTT-30.5 ___
___ 05:30PM BLOOD Glucose-84 UreaN-6 Creat-0.7 Na-139 K-4.1 
Cl-106 HCO3-24 AnGap-13
___ 05:30AM BLOOD Calcium-8.4 Phos-3.5 Mg-2.0
___ 04:40PM URINE Color-Straw Appear-Clear Sp ___
___ 04:40PM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-8.0 Leuks-NEG
___ 04:40PM URINE UCG-NEGATIVE

Discharge labs:
___ 05:30AM BLOOD WBC-5.4 RBC-3.89* Hgb-12.2 Hct-37.1 
MCV-95 MCH-31.3 MCHC-32.8 RDW-11.8 Plt ___
___ 05:30AM BLOOD ___ PTT-31.9 ___
___ 05:30AM BLOOD Glucose-91 UreaN-6 Creat-0.7 Na-137 K-3.5 
Cl-104 HCO3-25 AnGap-12
___ 05:30AM BLOOD Calcium-8.9 Phos-3.9 Mg-2.

Imaging:
-G/J tube check (___): FINDINGS: Two AP supine views of the 
abdomen were obtained prior to and after the injection of 
Gastrografin through the patient's existing percutaneous 
gastrojejunostomy tube. On the scout view, oral contrast 
material is also seen within the transverse and left and sigmoid 
colon.  These images demonstrate the tip of the catheter to lie 
within the distal stomach, likely at the level of the pylorus, 
with oral contrast opacifying both the stomach and proximal 
duodenum.   No extraluminal oral contrast is identified.  A clip 
is demonstrated within the left upper quadrant.  There is no 
evidence of bowel obstruction. 
  
IMPRESSION:  Percutaneous gastrojejunostomy tube tip appears to 
be in 
unchanged position, terminating within the region of the 
pylorus. 

-G/J tube replacement (___): Initial scout images 
demonstrated existing GJ tube looping in the stomach, but its 
distal tip in second to third portion of the duodenum.  Small 
amount of contrast was injected to sasses the position of the 
tip of the tube.  A ___ wire was then placed through the 
tube and with its tip in the duodenum, the balloon was deflated 
and then the tube was removed.  Alongside this ___ wire, an 
additional ___ wire through the 5 ___ Kumpe catheter was 
then navigated into the duodenum distally.  The ___ wire was 
then exchanged for Amplatz wire and the Kumpe catheter was then 
exchanged for sheath.  The Amplatz wire was then exchanged for a 
stiff Glidewire.  The sheath was then removed and 16 ___ 
regular profile MIC GJ tube was then placed over the wire.  The 
balloon was inflated with 7 cc of very diluted contrast.  
Contrast injections through both ports demonstrated
opacification of distal jejunum and stomach is appropriate.  The 
wires were
removed.  The balloon was inflated in the stomach.  Sterile 
dressings were
applied. 
The patient tolerated the procedure well.  No immediate 
post-procedure
complications were noted.
 
IMPRESSION:  Successful placement of GJ tube with a new 16 
___ MIC GJ tube.
 
Brief Hospital Course:
___ h/o eating disorder and gastroparesis s/p G/J tube exchange 
3 days PTA who presents with abdominal pain.  
  
# Abdominal pain: Thought to be related to her recent J/G tube 
change, she has had significant pain after this procedure in the 
past.  At admission, the J portion of her G/J tube was noted to 
be located in the stomach.  ___ was consulted who recommended 
replacing the tube for one with a longer J portion, although 
they cautioned that there is still a chance that this tube will 
also become misplaced into the stomach.  She underwent the tube 
change on ___ which was uneventful.  She was discharged home 
in good condition.  The new tube was easily flushed with water 
prior to discharge with no discomfort.  Her tube feeds were held 
this admission prior to the tube change, she will resume these 
at home.  She reports that she gets the majority of her 
nutrition through the G/J tube with only small amounts of PO 
intake.  She received PO and occasional IV Dilaudid for pain 
control this admission.
  
# Bipolar disorder : She was continued on her home lithium and 
clonazepam.  
  
# Gastroparesis: Thought to be secondary to her prior eating 
disorder and laxative abuse, she is followed by Dr. ___ 
GI.  ___ was continued on her home doses of domperidone and 
Zofran.

# H/o eating d/o: Appears to be in remission. As above, TF were 
held initially until her tube was changed.  At discharge, she 
will continue her home tube feeds.  Electrolytes were monitored 
daily without significant abnormalities.
  
# H/o laxative abuse and chronic constipation: She was on 
Miralax at home, which was contnued this admission.

# Code status this admission: FULL

# Transitional issues:
-G/J tube changed this admission, will restart TF at discharge
-Has GI follow-up arranged with Dr. ___ in a few weeks
-Given few doses of Vicodin for post-procedure pain control at 
discharge
 
Medications on Admission:
1. Adderall 10 mg Tablet Sig: One (1) Tablet PO twice a day. (at 
8am and at 2pm)  
2. clonazepam 2mg QHS  
3. domperidone (bulk) 1 tab TID  
4. lithium citrate 8 mEq/5 mL Solution Sig: Three Hundred (300) 
mg PO QAM and at 2pm  
5. lithium citrate 8 mEq/5 mL Solution Sig: Six Hundred (600) mg 
 
PO QHS  
6. Calcium  
7. omeprazole 20 mg BID  
8. Zofran 8 mg TID PRN nausea  
9. trazodone 50 mg Tablet Sig: One (1) Tablet PO HS (at bedtime) 
PRN  
10. multivitamin daily  
11. Miralax 17 gram daily  
12. thiamine HCl Oral  
 
Discharge Medications:
1. amphetamine-dextroamphetamine 10 mg Tablet Sig: One (1) 
Tablet PO twice a day.  
2. clonazepam 2 mg Tablet Sig: One (1) Tablet PO at bedtime.  
3. lithium citrate 8 mEq/5 mL Solution Sig: Three Hundred (300) 
mg PO qAM and at 2PM.  
4. lithium citrate 8 mEq/5 mL Solution Sig: Six Hundred (600) mg 
PO QHS (once a day (at bedtime)).  
5. calcium carbonate  Oral
6. domperidone (bulk)     Powder Sig: Ten (10) mg Miscellaneous 
three times a day.  
7. omeprazole 20 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO BID (2 times a day).  
8. trazodone 50 mg Tablet Sig: One (1) Tablet PO HS (at bedtime) 
as needed for insomnia.  
9. ondansetron HCl 8 mg Tablet Sig: One (1) Tablet PO every 
eight (8) hours as needed for nausea.  
10. multivitamin     Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
11. polyethylene glycol 3350 17 gram Powder in Packet Sig: One 
(1) Powder in Packet PO DAILY (Daily) as needed for 
constipation.  
12. thiamine HCl 100 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
13. hydrocodone-acetaminophen ___ mg Tablet Sig: One (1) 
Tablet PO twice a day as needed for pain for 7 days: No not 
drive or operate machinery after taking Vicodin.
Disp:*10 Tablet(s)* Refills:*0*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary diagnosis:
Abdominal pain
Malpositioned G/J tube

Secondary diagnoses:
Gastroparesis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure taking care of you during your admission to 
___ for adominal pain after your G/J tube was changed.  The J 
portion of your tube was found to be misplaced in the stomach.  
You had the tube changed for a longer tube in an attempt to keep 
it in the proper location.  Your tube feeds were held this 
admission, you may restart them after discharge.

No changes were made to your medications.
START Vicodin 1 tab every 12 hours as needed for pain
 
Followup Instructions:
___